US07220760B2
To a solution of N-phenyl-N-quinolin-4-ylacetamide (2 g) and Nickel dichloride (7.6 mmol) in methanol, cooled at 0° C., was added sodium borohydride (20 eq). The solution was then stirred overnight, at room temperature. The solvent was removed to give an amorphous materiel, which is crystallized in diethyl ether. After fitration, dichloromethane was added and the solution was washed with water. The organic layer was separated and dried over sodium sulfate. The solvent was removed to obtain an amorphous material. The product was purified by chromatography on silica gel using a mixture of cyclohexane and ethyl acetate (95:5) as eluent to give a N-phenyl-N-1,2,3,4-tetrahydroquinolin-4-ylacetamide (380 mg).

reactant | N-phenyl-N-quinolin-4-ylacetamide | 2 g | C1(=CC=CC=C1)N(C(C)=O)C1=CC=NC2=CC=CC=C12 | C17H14N2O
reactant | sodium borohydride | 20 eq | [BH4-].[Na+]
solvent | methanol | CO | CH4O
catalyst | Nickel dichloride | 7.6 mmol | [Ni](Cl)Cl
product | N-phenyl-N-1,2,3,4-tetrahydroquinolin-4-ylacetamide | 380 mg | C1(=CC=CC=C1)N(C(C)=O)C1CCNC2=CC=CC=C12 | C17H18N2O
